US07459475B2
Step C: 3-(2-Trifluoromethoxyphenyl)-benzoic acid
A solution of 0.3 g (4.19 mmol) of ethyl-3-(2-trifluoromethoxyphenyl)-benzoate and 8.3 mL (8.3 mmol) of a 1N solution of NaOH in 12.5 mL of methanol was stirred 18 h at RT. The reaction mixture was concentrated and the pH was adjusted to pH of 2 with 1 N HCl solution. The mixture was extracted with ethyl acetate (EtOAc) and the organic fraction was dried over MgSO4 and filtered. The filtrate was concentrated to give the title compound as a white solid that was used without further purification.

reactant | ethyl-3-(2-trifluoromethoxyphenyl)-benzoate | 4.19 mmol, 0.3 g | C(C)OC(C1=CC(=CC=C1)C1=C(C=CC=C1)OC(F)(F)F)=O | C16H13F3O3
reactant | NaOH | [OH-].[Na+]
solvent | methanol | 12.5 mL | CO | CH4O
product | 3-(2-Trifluoromethoxyphenyl)-benzoic acid | FC(OC1=C(C=CC=C1)C=1C=C(C(=O)O)C=CC1)(F)F | C14H9F3O3
